US07109202B2
(3-[5-(2-Methyl-imidazol-1-yl)-2-(pyrazin-2-ylamino)-thiazol-4-yl]-benzonitrile)
3-(2-Methylimidazol-1-yl-acetyl)-benzonitrile (13.8 g, 0.06 mol) is mixed with pyrazinyl-2-thiourea (9.4 g, 0.06 mol), iodine (15.6 g, 0.06 mol) and pyridine (60 ml). The mixture is stirred, initially at room temperature and then at 60° C. overnight (17.5 hours). The mixture obtained is allowed to cool to room temperature and water (50 ml) added. The solid obtained is filtered off, stirred in water (50 ml) for 30 minutes, and filtered off again. The resulting solid is dried at 40° C. in vacuo over P2O5 to give the title compound.

reactant | 3-(2-Methylimidazol-1-yl-acetyl)-benzonitrile | 0.06 mol, 13.8 g | CC=1N(C=CN1)CC(=O)C=1C=C(C#N)C=CC1 | C13H11N3O
reactant | pyrazinyl-2-thiourea | 0.06 mol, 9.4 g | N1=C(C=NC=C1)NC(=S)N | C5H6N4S
reactant | iodine | 0.06 mol, 15.6 g | II | I2
reactant | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 50 ml | O | H2O
product | 3-[5-(2-Methyl-imidazol-1-yl)-2-(pyrazin-2-ylamino)-thiazol-4-yl]-benzonitrile | CC=1N(C=CN1)C1=C(N=C(S1)NC1=NC=CN=C1)C=1C=C(C#N)C=CC1 | C18H13N7S
